US06982348B2
To a solution of (4RS,5SR)-5-(3-furanyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (7.0 g, 22.5 mmol) in ethanol (100 ml) was added 8N aqueous sodium hydroxide solution (14.0 ml, 112.5 mmol) and the mixture was heated under reflux for 3 hrs. The reaction solution was concentrated, diluted with water (300 ml) and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1-(3-furanyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (5.54 g, 86%).

reactant | (4RS,5SR)-5-(3-furanyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 22.5 mmol, 7.0 g | O1C=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C15H12F3NO3
reactant | sodium hydroxide | 112.5 mmol, 8N, 14.0 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(3-furanyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 5.54 g, 86% | NC(C(O)C1=COC=C1)CC1=CC=C(C=C1)C(F)(F)F | C14H14F3NO2
